US04153796
(b) 4-Chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carbonitrile
10.3 g. of 1-ethyl-4-hydroxy-1H-pyrazolo-[3,4-b]pyridine-5-carboxamide (0.05 mol.) and 125ml. of thionyl chloride are refluxed for 3.5 hours. After cooling, the thionyl chloride is removed in vacuo and the residue is extracted twice with 400ml. of refluxing hexane. The combined extracts are treated with charcoal, filtered and evaporated. The product, 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carbonitrile, is recrystallized from a small amount of hexane, yield 2.9 g. (28%), m.p. 100°-102°.

reactant | 1-ethyl-4-hydroxy-1H-pyrazolo-[3,4-b]pyridine-5-carboxamide | 0.05 mol | C(C)N1N=CC=2C1=NC=C(C2O)C(=O)N | C9H10N4O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4-Chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carbonitrile | ClC1=C2C(=NC=C1C#N)N(N=C2)CC | C9H7ClN4
